US08912188B2
To a solution of methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (600 mg, 2.51 mmol) in DMSO (10 ml) was added 2-methylpiperidine (500 mg, 5.04 mmol) and DIEA (650 mg, 5.03 mmol). The resulting solution was stirred at 80° C. for 2 hours and then quenched by water (50 ml). The solids were collected by filtration to afford methyl 3-(2-methylpiperidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a light yellow solid (520 mg, 69%).

reactant | methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 2.51 mmol, 600 mg | ClC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C10H7ClN2O3
reactant | 2-methylpiperidine | 5.04 mmol, 500 mg | CC1NCCCC1 | C6H13N
reactant | DIEA | 5.03 mmol, 650 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | methyl 3-(2-methylpiperidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 520 mg, 69% | CC1N(CCCC1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C16H19N3O3
